US04939140
2-Bromomethyl-3-methoxy-benzothiophene
To a solution of 3-methoxybenzothiophene-2-carboxaldehyde [3.4 g; J. Chem. Soc. C 779 (1967)] in ethanol (60 ml) was added sodium borohydride (0.34 g). After 10 minutes the solution was poured onto water (200 ml) and extracted with ether (2×50 ml). The ether extracts were washed with water (2×25 ml), dried and then evaporated to the title product as an orange oil. Yield, 3.4 g. 'HNMR (CDCl3, 60 MHz): 2.6 (s, 1H), 3.8 (s, 3H), 4.8 (s, 2H), 7.0-8.0 (m, 4H). This material (1.5 g) was dissolved in ether (20 ml). To the solution cooled in an ice-bath was added phosphorous tribromide (0.7 ml). The mixture was let to stand for 1 hour. The reaction mixture was poured onto ice-water (50 ml) and the ether layer separated, collected, dried and evaporated to obtain the title product as a light yellow oil (yield, 1.4 g). 'HNMR CDCl3, 60 MHz): 4.0 (s, 3H), 5.0 (s, 2H), 7.2-7.8 (m, 4H).

reactant | 3-methoxybenzothiophene-2-carboxaldehyde | 3.4 g | COC1=C(SC2=C1C=CC=C2)C=O | C10H8O2S
reactant | sodium borohydride | 0.34 g | [BH4-].[Na+]
reactant | phosphorous tribromide | 0.7 ml | P(Br)(Br)Br | Br3P
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-Bromomethyl-3-methoxy-benzothiophene | 1.4 g | BrCC=1SC2=C(C1OC)C=CC=C2 | C10H9BrOS
